US09108939B2
D: 1-(Cyclopropylmethyl)-3-(4-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yloxy)phenyl)urea
A solution of 2-(4-((4-(4-aminophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.446 mmol, 200 mg) and 4-nitrophenyl carbonochloridate (0.446 mmol, 90 mg) in dichloromethane (1 mL) were stirred at room temperature for 30 minutes. Cyclopropylmethanamine (0.892 mmol, 0.091 mL, 63.4 mg) was added, followed by triethylamine (1.338 mmol, 0.187 mL, 135 mg) and the reaction stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and saturated sodium bicarbonate solution was added. The organic layer was separated and concentrated under vacuum. The residue was purified by silica column chromatography (eluent 2-8% methanol in dichloromethane) to give the title compound (55.3 mg). MS (ESI) m/z 546.2 [M+H]+

reactant | 2-(4-((4-(4-aminophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.446 mmol, 200 mg | NC1=CC=C(OC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C21H22F6N2O2
reactant | 4-nitrophenyl carbonochloridate | 0.446 mmol, 90 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Cyclopropylmethanamine | 0.892 mmol, 0.091 mL, 63.4 mg | C1(CC1)CN | C4H9N
reactant | triethylamine | 1.338 mmol, 0.187 mL, 135 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(Cyclopropylmethyl)-3-(4-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yloxy)phenyl)urea | 55.3 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)OC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C26H29F6N3O3
